US05834493
1-(4-chloro-butyl)-4-fluoro-benzene
Triethylsilane (22.5 ml; 0.141 mol) was added dropwise to a cold (~0° C.) stirring mixture of 4-chloro-4'-fluoro-butyrophenone (10 ml; 0.0613 mol) in trifluoroacetic acid (47 ml). The reaction mixture was stirred at room temperature under nitrogen for 6 hours. The reaction was quenched with brine and extracted with diethyl ether. The organic extract was dried (MgSO4) and evaporated under vacuum giving the desired compound as an oil.

reactant | Triethylsilane | 0.141 mol, 22.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-chloro-4'-fluoro-butyrophenone | 0.0613 mol, 10 ml | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
solvent | trifluoroacetic acid | 47 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-chloro-butyl)-4-fluoro-benzene | ClCCCCC1=CC=C(C=C1)F | C10H12ClF
